US07943613B2
N-Propargylmorpholine (0.64 g, 5.1 mmol) was added under nitrogen atmosphere to a degassed solution of ethyl (Z)-[7-[3-(4-iodophenyl)-3-(4-trifluoromethylphenyl)allyloxy]-benzo[b]furan-4-yl]oxyacetate (0.68 g, 1.09 mmol) in a mixture of tetrahydrofuran (20 mL) and triethylamine (10 mL) The solution was cooled to 0° C., tetrakis(triphenylphosphine)palladium (0.17 g, 0.147 mmol) and copper(I) iodide (0.03 g, 0.16 mmol) were added. The reaction mixture was stirred at ambient temperature for 120 h, diluted with benzene (100 mL), decanted and evaporated in vacuo. The residue was purified by column chromatography (silica gel Fluka 60, benzene/ethyl acetate 1:0-0:1) yielding ethyl (E)-[7-[3-[4-[3-(morpholin-4-yl)propynyl]phenyl]-3-(4-trifluoromethylphenyl)allyloxy]benzo[b]furan-4-yl]oxyacetate.

reactant | N-Propargylmorpholine | 5.1 mmol, 0.64 g | C(C#C)N1CCOCC1 | C7H11NO
reactant | ethyl (Z)-[7-[3-(4-iodophenyl)-3-(4-trifluoromethylphenyl)allyloxy]-benzo[b]furan-4-yl]oxyacetate | 1.09 mmol, 0.68 g | IC1=CC=C(C=C1)\C(=C/COC1=CC=C(C2=C1OC=C2)OCC(=O)OCC)\C2=CC=C(C=C2)C(F)(F)F | C28H22F3IO5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium | 0.147 mmol, 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.16 mmol, 0.03 g | [Cu]I
product | ethyl (E)-[7-[3-[4-[3-(morpholin-4-yl)propynyl]phenyl]-3-(4-trifluoromethylphenyl)allyloxy]benzo[b]furan-4-yl]oxyacetate | N1(CCOCC1)CC#CC1=CC=C(C=C1)\C(=C/COC1=CC=C(C2=C1OC=C2)OCC(=O)OCC)\C2=CC=C(C=C2)C(F)(F)F | C35H32F3NO6
